US05750744
A solution of 17β-hydroxy-4-nitroandrost-4-en-3-one (4-nitrotestosterone, 10.56 g, 31.7 mM) in acetone (900 ml) cooled to -6° C. is treated with Jones reagent (10.0 ml). After the excess reagent is decomposed with methanol, the solids are removed by filtration. The filtrate is concentrated, for example on a rotary evaporator under vaccum, then purified by flash chromatography on silica gel to give 4-nitroandrost-4-ene-3,17-dione, m.p. 205°-205.5° C. dec.(acetone-hexane).

reactant | 17β-hydroxy-4-nitroandrost-4-en-3-one | 31.7 mM, 10.56 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C(C(CC[C@]3(C)[C@H]1CC2)=O)[N+](=O)[O-] | C19H27NO4
reactant | Jones reagent | 10.0 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | methanol | CO | CH4O
solvent | acetone | 900 ml | CC(=O)C | C3H6O
product | 4-nitroandrost-4-ene-3,17-dione | [N+](=O)([O-])C1=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C19H25NO4
